US04005099
A sample of 2-[[7-chloro-5-(o-chlorophenyl)-3H-1,4-benzodiazepin-2-yl]amino]propionaldehyde dimethyl acetal (2.03 g., 5.00 mmol), dissolved in 60 ml. of monoglyme, is treated with 0.75 ml. (1.30 g., 6.85 mmol) of (reagent-grade) titanium tetrachloride. A vigorous reaction takes place and a brown solid precipitates in the reaction flask. The mixture is refluxed under nitrogen for 4 hours. The reaction mixture is cooled to room temperature, poured into 250 ml. of cold 5% aqueous sodium hydroxide and extracted with chloroform (400 ml.). The chloroform layer is washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to a solid. After crystallization 960 mg. of 8-chloro-2-methyl-6-(o-chlorophenyl)-4H-imidazo[1,2-a][1,4]-benzodiazepine of melting point 169.5° -170.5° C. is obtained.

reactant | 2-[[7-chloro-5-(o-chlorophenyl)-3H-1,4-benzodiazepin-2-yl]amino]propionaldehyde dimethyl acetal | 5.00 mmol, 2.03 g | COC(C(C)NC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl)OC | C20H21Cl2N3O2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | monoglyme | C(OC)COC | C4H10O2
product | 8-chloro-2-methyl-6-(o-chlorophenyl)-4H-imidazo[1,2-a][1,4]-benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=C(N3)C)C3=C(C=CC=C3)Cl)C1 | C18H13Cl2N3
